Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
charcot arthropathy
 
Major Surgical or Invasive Procedure:
___
1. Closed treatment right bimalleolar ankle fracture with
    manipulation.
2. Tenotomy, right Achilles tendon.
3. Flexor hallucis longus tendon release.
4. Flexor digitorum longus release.
5. Posterior tibial tendon release.

 
History of Present Illness:
I am seeing your patient today in the ___ clinic.  I am
seeing this patient today for review.  She has had unfortunately
a fall approximately one and half weeks ago.  She had a twisting
injury.  She has had pain in the ankle since that time.

She does not describe any changes in her health.  Her past
medical history has been documented including diabetes.

I examined her today and found that she has some tenderness on
deep palpation of medial or lateral aspects of her ankle.  No
complaints of any calf pain or calf swelling to suggest deep 
vein
thrombosis or pulmonary embolus.

IMAGING:  I reviewed her x-rays that show evidence of an acute
fracture involving her ankle joint, specifically a bimalleolar
ankle fracture.  She does have underlying Charcot arthropathy.

ASSESSMENT AND PLAN:  I had a discussion today with ___
regarding management.  I am concerned regarding her new 
fracture.
 We have talked about treatment.  We have talked about surgical
intervention to address her deformity; however, I am concerned
about adding additional hardware because of her history of
noncompliance and the risk of deep infection that may require
additional procedures including a possible below-knee 
amputation.

We will go ahead and make the appropriate arrangements for her 
to
have her procedure done to stabilize the ankle and again, we 
will
try to avoid any hardware that would not be removed at a later
date.  She also is aware of the possibility that she may require
a fusion type procedure as if she continues to have instability
involving the ankle.

I have answered all of her questions.  She was given specific
instructions regarding followup.  She is to remain
nonweightbearing.  She understands signs and symptoms associated
with deep vein thrombosis and pulmonary embolus.

 
Past Medical History:
PMH: 
type 1 DM
alport syndrome
htn
hypercholesterolemia

PSH:
vp shunt 
c-section

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
splint c/d/i
neurovascularly intact distally
foot wwp
 
Pertinent Results:
none
 
Brief Hospital Course:
The patient was admitted to the orthopaedic surgery service and 
was taken to the operating room for above described procedure. 
Please see separately dictated operative report for details. The 
surgery was uncomplicated and the patient tolerated the 
procedure well. Patient received perioperative IV antibiotics.

Otherwise, pain was initially controlled with a PCA followed by 
a transition to oral pain medications on POD#1.  The patient 
received lovenox for DVT prophylaxis starting on the morning of 
POD#1.  The patient was seen daily by physical therapy.   

At the time of discharge the patient was tolerating a regular 
diet and feeling well.  The patient was afebrile with stable 
vital signs.  The patient's  pain was adequately controlled on 
an oral regimen. The operative extremity was neurovascularly 
intact.   The patient is non-weight-bearing on the operative 
lower extremity.
 
She is discharged to home in stable condition with prescriptions 
for oxycodone and lovenox
 
Medications on Admission:
Medications - Prescription
AMLODIPINE - 10 mg Tablet - take 1 Tablet(s) by mouth once a day
ENALAPRIL MALEATE - 20 mg Tablet - take 1 Tablet(s) by mouth
twice a day
INSULIN GLARGINE [LANTUS] - 100 unit/mL Solution - use as
directed twice a day
INSULIN LISPRO [HUMALOG] - 100 unit/mL Solution - use as 
directed
four times a day
PAROXETINE HCL [PAXIL] - 10 mg Tablet - take 1 Tablet(s) by 
mouth
once a day
PRAVASTATIN - 40 mg Tablet - take 1 Tablet(s) by mouth at 
bedtime
SULFAMETHOXAZOLE-TRIMETHOPRIM - 800 mg-160 mg Tablet - take 1
Tablet(s) by mouth twice a day
 
Medications - OTC
BLOOD SUGAR DIAGNOSTIC [FREESTYLE LITE STRIPS] -   Strip - use 
as
directed to measure blood glucose four times a day
INSULIN SYRINGE-NEEDLE U-100 [BD INSULIN SYRINGE ULTRA-FINE] - 
30
gauge X ___ Syringe - use as directed 8 times a day as needed
for glucose level

 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
2. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

3. enalapril maleate 10 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).  
4. pravastatin 20 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
5. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for Pain.  
6. enoxaparin 40 mg/0.4 mL Syringe Sig: One (1) syringe 
Subcutaneous Q 24H (Every 24 Hours).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
charcot arthropathy

 
Discharge Condition:
home.  stable.  alert and oriented x3.

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.

2. Please follow up with your primary physician regarding this 
admission and any new medications and refills.  
 
3. Resume your home medications unless otherwise instructed.

 
4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as colace) as needed to prevent 
this side effect.  Call your surgeons office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your house.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.

 
5. Please call your surgeon's office to schedule or confirm your 
follow-up appointment in two (2) weeks.

 
6. Please DO NOT take any non-steroidal anti-inflammatory 
medications (NSAIDs such as celebrex, ibuprofen, advil, aleve, 
motrin, etc).

 
7. ANTICOAGULATION: Please continue your lovenox for four (4) 
weeks to help prevent deep vein thrombosis (blood clots).  

 
8. CAST CARE: Please keep your cast clean, dry and intact. 

 
9. ACTIVITY: Non-weight bearing on the operative extremity
 
Followup Instructions:
___